US07144908B2
iv) (5R)-5-(2,2-Dimethyl-4H-1,3-benzodioxin-6-yl)-1,3-oxazolidin-2-one
tert-Butyl (2R)-2-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-2-hydroxyethylcarbamate, (86.37 g) in DMF (600 ml) was added dropwise to a stirred suspension of sodium hydride (60% oil dispersion, 11.9 g) in DMF (160 ml) with cooling such that the internal temperature remained at 0° under nitrogen. The mixture was stirred at 21° for 2 h. The mixture was recooled to 0° and 2M HCl (134 ml) was added. The mixture was diluted with water and the product was extracted with ethyl acetate twice. The solution was washed with brine twice, dried (MgSO4) and evaporated to give the title compound (63.55 g) LCMS RT=2.66 min.

reactant | tert-Butyl (2R)-2-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-2-hydroxyethylcarbamate | 86.37 g | CC1(OCC2=C(O1)C=CC(=C2)[C@H](CNC(OC(C)(C)C)=O)O)C | C17H25NO5
reactant | sodium hydride | 11.9 g | [H-].[Na+]
reactant | HCl | 2M, 134 ml | Cl | ClH
solvent | DMF | 600 ml | CN(C)C=O | C3H7NO
solvent | DMF | 160 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | (5R)-5-(2,2-Dimethyl-4H-1,3-benzodioxin-6-yl)-1,3-oxazolidin-2-one | 63.55 g | CC1(OCC2=C(O1)C=CC(=C2)[C@@H]2CNC(O2)=O)C | C13H15NO4
